US05519133
Preparation of 2-Bromo-5-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]benzamide
A solution of 2-bromo-5-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]benzoyl chloride (16 g, 0.036 mol) in methylene chloride is cooled to 0° C., treated dropwise with 9.2 mL of a 30% ammonium hydroxide solution (0.071 mol), stirred at 0° C. for 30 minutes, stirred at room temperature overnight and poured into water. The aqueous mixture is extracted with methylene chloride. The organic extracts are combined, washed sequentially with saturated sodium hydrogen carbonate solution and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title product as a white solid, mp 115°-116° C.

reactant | 2-bromo-5-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]benzoyl chloride | 0.036 mol, 16 g | BrC1=C(C(=O)Cl)C=C(C=C1)OC1=CC(=C(C(=C1)F)C(F)(F)F)Cl | C14H5BrCl2F4O2
reactant | ammonium hydroxide | 0.071 mol | [OH-].[NH4+]
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Bromo-5-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]benzamide | BrC1=C(C(=O)N)C=C(C=C1)OC1=CC(=C(C(=C1)F)C(F)(F)F)Cl | C14H7BrClF4NO2
